US08048909B2
tert-Butyl {{1-[(3-chlorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl}methylcarbamate
Using tert-butyl {{5-bromo-1-[(3-chlorophenyl)sulfonyl]-1H-pyrrol-3-yl}methyl}methylcarbamate (1 g), phenylboronic acid (526 mg), sodium carbonate (687 mg) and tetrakis(triphenylphosphine)palladium (374 mg), a procedure as in Reference Example 57 was performed to give the title compound as a pale-yellow oil (yield 726 mg, 73%).

reactant | tert-butyl {{5-bromo-1-[(3-chlorophenyl)sulfonyl]-1H-pyrrol-3-yl}methyl}methylcarbamate | 1 g | BrC1=CC(=CN1S(=O)(=O)C1=CC(=CC=C1)Cl)CN(C(OC(C)(C)C)=O)C | C17H20BrClN2O4S
reactant | phenylboronic acid | 526 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 687 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 374 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl {{1-[(3-chlorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl}methylcarbamate | yield 726 mg, 73% | ClC=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C23H25ClN2O4S
